US04923857
To a solution of (2S)-1-allyloxycarbonyl-2-(2-methyl-3-oxo-1-butenyl)pyrrolidine (9.00 g) and triethylamine (6.3 ml) in dichloromethane (200 ml) was added trimethylsilyl trifluoromethanesulfonate (11.7 ml) at -20° C. After stirring at 0° C. for 1 hour, a solution of (3R,4R)-4-acetoxy-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-azetidinone (10.9 g) and zinc bromide (11.9 g) in ethyl acetate (70 ml) was added to the mixture and the resultant mixture was stirred at 0° C. for 45 minutes. The reaction mixture was taken up into a mixture of ethyl acetate (600 ml) and water (600 ml). After adjusting pH to 4 with aqueous sodium hydrogen carbonate, the organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel (400 ml) eluting with a mixture of n-hexane and ethyl acetate (9:1-5:5 V/V) to give (3S, 4R)-4-[(E)-4-{(2S)-1-allyloxycarbonylpyrrolidin-2-yl}-3-methyl-2-oxo-3-butenyl]-3[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidine (9.96 g).

reactant | (2S)-1-allyloxycarbonyl-2-(2-methyl-3-oxo-1-butenyl)pyrrolidine | 9.00 g | C(C=C)OC(=O)N1[C@@H](CCC1)C=C(C(C)=O)C | C13H19NO3
reactant | trimethylsilyl trifluoromethanesulfonate | 11.7 ml | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | (3R,4R)-4-acetoxy-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-azetidinone | 10.9 g | C(C)(=O)O[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C | C13H25NO4Si
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
catalyst | zinc bromide | 11.9 g | [Br-].[Zn+2].[Br-]
solvent | ethyl acetate | 600 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 600 ml | O | H2O
solvent | triethylamine | 6.3 ml | C(C)N(CC)CC | C6H15N
product | (3S, 4R)-4-[(E)-4-{(2S)-1-allyloxycarbonylpyrrolidin-2-yl}-3-methyl-2-oxo-3-butenyl]-3[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidine | 9.96 g | C(C=C)OC(=O)N1[C@@H](CCC1)/C=C(/C(C[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)\C | C24H40N2O5Si
